data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_436677_0,[C:1]([C:3]([C:2]([N:5]([H:16])[H:17])([N:6]([H:14])[H:15])[H:11])=[O:8])([N:4]([H:12])[H:13])([O:7][H:9])[H:10]>>[C:1]([C:2]([N:5]([H:16])[H:17])([N:6]([H:14])[H:15])[H:11])([C:3]([O:7][H:9])=[O:8])([N:4]([H:12])[H:13])[H:10],29.336252500018105
MR_120143_0,[C:1](/[N:2]=[C:5](\[C:6]([N:3]([H:8])[H:9])([C:4](=[O:7])[H:10])[H:12])[H:11])([H:13])([H:14])[H:15]>>[C:1]([N:2]([C:4](=[O:7])[H:10])/[C:5](=[C:6](/[N:3]([H:8])[H:9])[H:12])[H:11])([H:13])([H:14])[H:15],46.85856250000839
MR_323288_1,[C:1](/[C:3]([N:5]([H:10])[H:11])=[C:7]([C:4](\[C:2]([H:17])([H:18])[H:19])=[C:6](\[O:8][H:9])[H:12])/[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:3]1([N:5]([H:10])[H:11])[C:6]([O:8][H:9])([H:12])[C:4]([C:2]([H:17])([H:18])[H:19])=[C:7]1[H:13])([H:14])([H:15])[H:16],32.66576749995849
MR_376507_2,[C@:1]12([C:5]([H:14])([H:15])[H:16])[C@:2]([H:8])([N:6]1[C:4]([H:11])([H:12])[H:13])[O:7][C:3]2([H:9])[H:10]>>[C@:1]1([C:2]([N:6][C:4]([H:11])([H:12])[H:13])[H:8])([C:5]([H:14])([H:15])[H:16])[C:3]([H:9])([H:10])[O:7]1,45.93425500002354
MR_327373_1,[C:1]1([O:6][H:8])([H:10])[N:3]([H:9])[O:5][C:4]([C:2]([H:11])([H:12])[H:13])=[N:7]1>>[C:1](\[O:6][H:8])(=[N:7]/[C:4]1([C:2]([H:11])([H:12])[H:13])[N:3]([H:9])[O:5]1)[H:10],61.87902999996609
MR_106581_1,[C:1]1([O:6][H:9])([H:11])[C:2](=[O:8])[O:5][C:4]([H:12])=[C:3]1[O:7][H:10]>>[C:1](=[C:3](/[C:4]1([H:12])[C:2](=[O:8])[O:5]1)[O:7][H:10])(\[O:6][H:9])[H:11],68.1251649999976
MR_326328_1,[C:1](/[C:5]([N:3](/[C:4]([N:6]([H:11])[H:12])=[C:8](/[N:7]([H:13])[H:14])[H:15])[H:10])=[C:9](/[C:2]([H:20])([H:21])[H:22])[H:16])([H:17])([H:18])[H:19]>>[C:1](/[C:5]([C:8](/[C:4](=[N:3]/[H:10])[N:6]([H:11])[H:12])([N:7]([H:13])[H:14])[H:15])=[C:9](/[C:2]([H:20])([H:21])[H:22])[H:16])([H:17])([H:18])[H:19],63.08696749994823
MR_365575_1,[C:1]([C:2]([C:4]([N:7]([H:13])[H:14])=[O:8])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([N:5]([H:9])[H:10])[N:6]([H:11])[H:12]>>[C:1](\[C:2]([C:4]([C:3]([H:17])([H:18])[H:19])([N:7]([H:13])[H:14])[O:8][H:10])([H:15])[H:16])(=[N:5]/[H:9])[N:6]([H:11])[H:12],65.23803750001036
MR_322209_1,[C:1]1([O:6][C:4]([N:5]([H:11])[H:12])=[O:8])([H:9])[C:2]([C:3]([H:13])([H:14])[H:15])([H:10])[O:7]1>>[C@@:1]1([O:6][C:4]([N:5]([H:11])[H:12])=[O:8])([H:9])[C@@:2]([C:3]([H:13])([H:14])[H:15])([H:10])[O:7]1,71.52245000001656
MR_608208_0,[C:1](/[C:4]([N:6]([H:12])[H:13])=[C:7]([C:3](/[C:2]([N:5]([H:10])[H:11])=[O:9])=[N:8]/[H:14])\[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:4](=[N:6]\[H:12])/[C:7](=[C:3](/[C:2]([N:5]([H:10])[H:11])=[O:9])[N:8]([H:13])[H:14])[H:15])([H:16])([H:17])[H:18],6.13004750000357
MR_331094_1,[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[C:5]([O:7][H:10])=[O:8])([C:6]([C:3]([H:16])([H:17])[H:18])=[O:9])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:4]([C:2]([H:13])([H:14])[H:15])[C:6]1([C:3]([H:16])([H:17])[H:18])[O:9][C:5]([O:7][H:10])=[O:8],67.6614424999913
MR_673411_0,[C:1]([C:3]([C:2]([N:4]=[O:5])=[O:6])=[O:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([N:4]=[O:5])=[O:7])=[O:6])([H:8])([H:9])[H:10],50.27279000002025
MR_183505_1,[C:1]([C:3](/[C:2]([N:4]([H:9])[H:10])=[C:5](/[O:7][H:8])[H:11])=[C:6]([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:1]([C:3]1=[C:2]([N:4]([H:9])[H:10])[C@@:5]([O:7][H:8])([H:11])[C:6]1([H:15])[H:16])([H:12])([H:13])[H:14],34.25397000001496
MR_499515_0,[C:1]([C:3]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])=[O:8])([N:5]([H:12])[H:13])([O:6][H:10])[O:7][H:11]>>[C:1](\[C:3]([C:4]([C:2]([H:14])([H:15])[H:16])([O:7][H:11])[O:9][H:12])=[O:8])(=[N:5]/[H:13])[O:6][H:10],35.6325874999942
MR_286004_1,[C:1](/[C:4]([N:2]([C:3]([O:7][H:9])=[O:8])[H:10])=[C:6](/[N:5]([H:11])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:4](=[N:2]\[H:10])[C:6]([C:3]([O:7][H:9])=[O:8])([N:5]([H:11])[H:12])[H:13])([H:14])([H:15])[H:16],66.92287500003687
MR_597297_0,[N:1]([N:2]([O:7][H:10])[H:11])(/[C:3]([N:5]([H:14])[H:15])=[N:8]/[N:4]([H:12])[H:13])[O:6][H:9]>>[N:1](=[C:3](\[N:5]([H:14])[H:15])[N:8]([N:2]([O:7][H:10])[H:11])[N:4]([H:12])[H:13])\[O:6][H:9],50.77227999997192
MR_104600_1,[C@:1]([C:4]([H:18])([H:19])[H:20])(/[C:5]([C:3]([H:15])([H:16])[H:17])=[N:7]/[C:2]([H:12])([H:13])[H:14])(/[C:6](=[N:8]\[H:10])[H:11])[H:9]>>[C:1](\[C:4]([H:18])([H:19])[H:20])(=[C:5](/[C:3]([H:15])([H:16])[H:17])[N:7]([C:2]([H:12])([H:13])[H:14])/[C:6](=[N:8]\[H:10])[H:11])[H:9],53.702704999992505
MR_398389_0,[C:1]([C:7]1([H:14])[N:2]([H:8])[C:4]1([N:3]([N:5]([H:10])[H:11])[H:9])[N:6]([H:12])[H:13])([H:15])([H:16])[H:17]>>[C:1]([C:7]([N:3]([N:5]([H:10])[H:11])[H:9])(/[C:4](=[N:2]\[H:8])[N:6]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17],62.78702249999213
MR_38464_0,[C:1]([N:4]([C:3]([H:15])([H:16])[H:17])[O:6][C:2]([H:12])([H:13])[H:14])([N:5]([H:10])[H:11])([O:7][H:8])[H:9]>>[C:1]([N:4]([C:3]([H:15])([H:16])[H:17])[O:7][H:8])([N:5]([H:10])[H:11])([O:6][C:2]([H:12])([H:13])[H:14])[H:9],69.7045825000049
MR_26536_0,[C:1]([N:2]([H:5])[H:6])([C:3](=[O:4])[H:7])([H:8])[H:9]>>[C:1]([N:2]([H:5])[H:6])([C:3](=[O:4])[H:9])([H:7])[H:8],40.13113499999712
